Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP with stent exchange ___

 
History of Present Illness:
As per HPI by admitting MD: 
___ with hx of HTN, osteoarthritis of knee, HLD, admission
last week with pruritus, jaundice, found to have new pancreatic
adenocarcinoma, here with worsening of the above Sx, planning
ERCP.

Pt describes itching, ongoing for weeks, worsening since last
admission, severe, associated with anxiety, insomnia, nausea,
some intermittent crampy/tight RUQ abdominal pain. No f/c,
vomiting. Has dark urine and white stools. Minimal PO intake. 
Not
able to sleep for weeks. 

Last admission notes reviewed and summarized as follows: 
Similar sx to above. Found ampullary mass lesions. Had ERCP with
plastic stent placed during last admission, brushings showing
pancreatic adeno; planned for ___ with close f/u and ?repeat 
ERCP;
still pending full workup and onc planning; aware of Dx; 
trialing
cholestyramine, bendryl and hydroxyzine

 
Past Medical History:
Hypertension
Osteoarthritis of L knee
Adenocarcinoma of the pancreas diagnosed ___
ERCP with stent ___

 
Social History:
___
Family History:
-Father fell off a building when pt when he was little, didn't 
seek medical care after he recovered from that. Paternal 
grandmother (she was ___ apparently was jaundiced at time of 
her death, unknown age. 
-5 brothers, one of whom had DI as a baby, now has "full blown 
DM," has also had an MI
-Sister who has autoimmune issue
-Another sister with another autoimmune disease
-One of those sisters also has brainstem mass that has been 
present since birth
Per his sister there are family members with "pancreatic 
problems" but they aren't sure of details. 
-Mother with history of ERCP but unclear why 

 
Physical Exam:
Discharge physical exam
T98.2, BP 132/78, HR 70, RR 18, O2 98% RA
Gen - well appearing, sitting up 
HEENT - moist oral mucosa, no OP lesions 
Eyes - sclerae icteric, PERRL
___ - RRR, s1/2, no murmurs
Pulm - CTA b/l, no w/r/r
GI - soft NT ND +bowel sounds, no rebound/guarding
Ext - no edema or cyanosis
Skin - some small excoriations from itching diffusely especially 
over legs. skin is warm and dry, jaundiced
Psych - calm and cooperative 

 
Pertinent Results:
ERCP ___
ERCP with stent removal and re-evaluation. Distal CBD structure
noted. Fully covered metal stent deployed successfully. Good
drainage of bile post stent deployment. 

Labs:
___: Cr 1.2, ALT 59, AST 66, ALP 333, T bili 19.9 

CT chest w/o contrast ___:
  
1 mm indeterminate left upper lobe pulmonary nodule.  2 mm 
calcified granuloma in the right lower lobe. 

 
Brief Hospital Course:
___ with hx of htn, osteoarthritis of knee, HLD, recent 
admission to ___ for ERCP due to painless jaundice now returns 
with persistent jaundice and pruritus, also new diagnosis 
pancreatic adenocarcinoma. S/p ERCP ___ with stent exchange. 

#Pancreatic adenocarcinoma
#Jaundice
#Hyperbilirubinemia
Pruritus and jaundice persistent despite ercp w stent placement, 
therefore stent was exchanged with repeat ERCP ___. Overall 
bilirubin is still elevated but expect some mild elevation post 
procedurally. He has no abdominal pain and diet was advanced w/o 
pain or difficulty. LFTs remained elevated but trended down very 
slightly by the time of discharge. A CT chest for staging 
purposes showed a 1mm indeterminate left upper lobe pulmonary 
nodule and a 2mm calcified granuloma in the right upper lobe, 
the significance of these findings is unclear. He has an ___ 
oncology appointment scheduled immediately after discharge where 
he can discuss these results. 

#Pruritus
In the setting of elevated t bili. Continued on cholestyramine, 
dose increased to 8mg BID. Also continued on Benadryl and Sarna 
prn. Would consider a trial of steroids such as a Medrol dose 
pack, which could be discussed at his oncology visit. Unclear if 
there would be any contraindication to steroid initiation based 
on his oncologic plan. 

___ - resolved
Cr baseline around 1.0-1.2, up to 1.4 upon admit likely due to 
decrease PO intake with pain, now resolved, off fluids and has 
good PO intake. 

#HTN - cont home amlodipine
#CV - discontinued atorvastatin as an outpatient prior to this 
admission due to elevated LFTs, remains held at this time 

Code status - full
Dispo - discharge today, to oncology appointment
Time spent: 50 minutes 
Plan of care discussed with the patient and his wife at bedside. 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Cholestyramine 4 gm PO BID 
3. HydrOXYzine 25 mg PO QID:PRN pruritis 
4. Ranitidine 150 mg PO BID 

 
Discharge Medications:
1.  Cholestyramine 8 gm PO BID  
2.  amLODIPine 5 mg PO DAILY  
3.  HydrOXYzine 25 mg PO QID:PRN pruritis  
4.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ERCP with stent exchange
Pancreatic adenocarcinoma
Hyperbilirubinemia
Pruritus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital for a stent exchange due to 
persistently elevated bilirubin. You tolerated this well and 
will be discharged home. Please follow up in the ___ clinic 
at your visit this afternoon. 

For your itching, you may try Benadryl over the counter or Sarna 
lotion.

Please note that your paperwork indicates you have pending test 
results but this is in error. You had a CT of your chest which 
showed indeterminate nodules and will need to discuss the 
significance of this finding at your oncology visit this 
afternoon.  

We wish you the very best!

Sincerely, 
Your care team at ___
 
Followup Instructions:
___